US08039450B2
A solution of 6-(3-(1,3-dioxolan-2-yl)-2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-2-methoxynicotinonitrile (2.18 g, 4.93 mmol) in tetrahydrofuran (6 mL) was added 3 M HCl (3 mL). The solution was refluxed for four hours. The solution was cooled to room temperature and water was added. The solution was extracted with ethyl acetate. The organic layer was washed with water, then washed with brine, dried over anhydrous sodium sulfate, and filtered. The solvent was removed under reduced pressure to give 6-(2-fluoro-3-formyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-2-methoxynicotinonitrile (1.45 g, 74% yield).

reactant | 6-(3-(1,3-dioxolan-2-yl)-2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-2-methoxynicotinonitrile | 4.93 mmol, 2.18 g | O1C(OCC1)C=1C(=C(OC2=NC(=C(C#N)C=C2)OC)C=CC1B1OC(C(O1)(C)C)(C)C)F | C22H24BFN2O6
reactant | HCl | 3 M, 3 mL | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 6-(2-fluoro-3-formyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-2-methoxynicotinonitrile | 1.45 g, 74% yield | FC1=C(OC2=NC(=C(C#N)C=C2)OC)C=CC(=C1C=O)B1OC(C(O1)(C)C)(C)C | C20H20BFN2O5
